US08193199B2
A mixture of 2-chloro-8-methoxyquinoline-3-carbaldehyde (1.8583 g, 8.384 mmol), 3-fluorobenzeneboronic acid (1.290 g, 9.223 mmol), tetrakis(tri-phenylphosphine)palladium (0.4844 g, 0.4192 mmol), and sodium carbonate anhydrous (4.443 g, 41.92 mmol) in 76 mL of CH3CN—H2O (3:1) was stirred at 100° C. After 3 h, the mixture was cooled to room temperature and partitioned between EtOAc (200 mL) and water (100 mL). The organic layer was washed with brine (100 mL×2), dried over Na2SO4, filtered, and concentrated under reduced pressure to give an orange solid. The orange solid was purified by silica gel column chromatography on a 80 g of Redi-Sep™ column using 0 to 50% gradient of EtOAc in hexane over 25 min and then 50% isocratic of EtOAc for 25 min as eluent to give 2-(3-fluorophenyl)-8-methoxyquinoline-3-carbaldehyde as a light-yellow solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 10.09 (1H, s), 8.94 (1H, s), 7.80 (1H, dd, J=8.2, 1.2 Hz), 7.66 (1H, t, J=8.0 Hz), 7.53-7.64 (2H, m), 7.47-7.53 (1H, m), 7.36-7.44 (2H, m), 4.00 (3H, s); LC-MS (ESI) m/z 282.1 [M+H]+.

reactant | 2-chloro-8-methoxyquinoline-3-carbaldehyde | 8.384 mmol, 1.8583 g | ClC1=NC2=C(C=CC=C2C=C1C=O)OC | C11H8ClNO2
reactant | 3-fluorobenzeneboronic acid | 9.223 mmol, 1.290 g | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | sodium carbonate anhydrous | 41.92 mmol, 4.443 g | C(=O)(O)O | CH2O3
solvent | CH3CN—H2O | 76 mL | CC#N.O
product | 2-(3-fluorophenyl)-8-methoxyquinoline-3-carbaldehyde | FC=1C=C(C=CC1)C1=NC2=C(C=CC=C2C=C1C=O)OC | C17H12FNO2
